US06911464B2
(1R)-2-[1-(3-Ethoxy-4-methoxy-phenyl)-3-hydroxy-propyl]-7-nitro-2,3-dihydro-isoindol-1-one was prepared by the procedure of Example 1 from (3R)-3-amino-3-(3-ethoxy-4-methoxy-phenyl)-propan-1-ol (3.0 g, 13 mmol), 2-bromomethyl-6-nitro-benzoic acid methyl ester (3.6 g, 13 mmol) and triethylamine (2 mL, 14 mmol) in DMF (40 mL) to give a yellow solid (4.1 g, 81% yield): 1H NMR (CDCl3) δ 1.44 (t, J=7 Hz, 3H, CH3), 2.13-2.31 (m, 2H, CH2), 3.54-3.59 (m, 1H, CHH), 3.71-3.77 (m, 1H, NCHH), 3.87 (s, 3H, CH3), 3.94 (d, J=16 Hz, 1H, NCHH), 4.06 (q, J=7 Hz, 2H, CH2), 4.26 (d, J=16 Hz, 1H, NCHH), 5.70 (dd, J=4, 11 Hz, 1H, NCH), 6.85-6.99 (m, 3H, Ar), 7.55-7.77 (m, 3H, Ar); 13C NMR (CDCl3) δ 14.76, 33.92, 45.80, 51.30, 55.98, 58.65, 64.63, 65.84, 111.39, 113.22, 119.75, 122.91, 124.13, 126.74, 130.66, 132.11, 143.84, 146.66, 148.68, 149.33, 164.22.

reactant | (3R)-3-amino-3-(3-ethoxy-4-methoxy-phenyl)-propan-1-ol | 13 mmol, 3.0 g | N[C@H](CCO)C1=CC(=C(C=C1)OC)OCC | C12H19NO3
reactant | 2-bromomethyl-6-nitro-benzoic acid methyl ester | 13 mmol, 3.6 g | COC(C1=C(C=CC=C1[N+](=O)[O-])CBr)=O | C9H8BrNO4
reactant | triethylamine | 14 mmol, 2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (1R)-2-[1-(3-Ethoxy-4-methoxy-phenyl)-3-hydroxy-propyl]-7-nitro-2,3-dihydro-isoindol-1-one | C(C)OC=1C=C(C=CC1OC)[C@@H](CCO)N1C(C2=C(C=CC=C2C1)[N+](=O)[O-])=O | C20H22N2O6
